US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(2,6-dimethyl-morpholin-4-yl)-3-p-tolyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=529.3 (M+H+), was prepared in accordance with the general method of example 26 from 1-benzyl-3-(4-methyl-phenyl)-piperidin-4-one, cis-2,6-dimethyl-morpholine and 3,5-bistrifluoromethyl-benzoyl chloride.

reactant | 1-benzyl-3-(4-methyl-phenyl)-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC=C(C=C1)C | C19H21NO
reactant | cis-2,6-dimethyl-morpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(2,6-dimethyl-morpholin-4-yl)-3-p-tolyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CC(OC(C1)C)C)C1=CC=C(C=C1)C)(F)F | C27H30F6N2O2
